US05635527
Hydrochloride (1.00 g, 3.64 mmol) of ethyl (S)-2-amino-3-(4-nitrophenyl)propionate was dissolved in a mixed solution of tetrahydrofuran (10 ml), water (10 ml) and a 1N aqueous sodium hydroxide solution (3.64 ml) and a solution of benzyloxycarbonyl chloride (0.57 ml, 3.99 mmol) dissolved in tetrahydrofuran (3.5 ml) and a 1N aqueous sodium hydroxide solution (3.64 ml, 3.64 mmol) were simultaneously added dropwise under ice-cooling, which was followed by stirring at room temperature for 4 hours. A saturated aqueous sodium hydrogen carbonate solution (30 ml) was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/1) to give 743 mg of ethyl (S)-2-(benzyloxycarbonylamino)-3-(4-nitrophenyl)propionate as a colorless solid (55%). This solid (724 mg, 1.94 mmol) was dissolved in a mixture of ethanol (120 ml) and water (30 ml), and zinc (6.40 g, 97.9 mmol) and calcium chloride (2.00 g, 18.0 mmol) were added. The mixture was refluxed under heating for 3.5 hours. The reaction mixture was cooled to room temperature and filtrated. The filtrate was concentrated and water (100 ml) was added to the filtrate. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure to give 572 mg of ethyl (S)-3-(4-aminophenyl)-2-(benzyloxycarbonylamino)propionate as a pale-yellow oil (86%).

reactant | Hydrochloride | 3.64 mmol, 1.00 g | Cl | ClH
reactant | ethyl (S)-2-amino-3-(4-nitrophenyl)propionate | N[C@H](C(=O)OCC)CC1=CC=C(C=C1)[N+](=O)[O-] | C11H14N2O4
reactant | sodium hydroxide | 1N, 3.64 ml | [OH-].[Na+]
reactant | benzyloxycarbonyl chloride | 3.99 mmol, 0.57 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 3.64 mmol, 1N, 3.64 ml | [OH-].[Na+]
reactant | sodium hydrogen carbonate | 30 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
product | ethyl (S)-2-(benzyloxycarbonylamino)-3-(4-nitrophenyl)propionate | 743 mg, 55% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OCC)CC1=CC=C(C=C1)[N+](=O)[O-] | C19H20N2O6
